US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.94 mmol) was treated with 4-fluoro-butylamine following general procedure B to afford 4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (244 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (150 mg) following general procedure E. The above ethylamide (145 mg, 0.45 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 3-ethyl-1-(4-fluoro-butyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (95 mg). LCMS: m/z 346 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.94 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 4-fluoro-butylamine | FCCCCN | C4H10FN
product | 4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 244 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCCCCF)OC | C17H21FN2O3
